* Z:\mnt\design.r\spice\examples\3575.asc
R1 N007 0 10K
R2 N006 0 28.7K
V1 IN 0 18
C1 N010 N009 4.7n
C2 0 N011 4.7µ
R3 N003 N005 80.6K
R4 0 N008 6.04K
L1 IN N003 24µ Rpar=5K
L2 0 N001 2.6µ Rpar=5K
C3 OUT 0 47µ Rser=10m
D1 N001 OUT MBRS340
R5 N009 0 11.5K
C4 0 N012 .01µ
R6 IN N004 357K
R7 N004 0 51.1K
R8 IN N002 1K
C5 IN N002 .22µ
D2 N003 N002 1N4148
Rload OUT 0 3.5
XU1 0 MP_01 MP_02 N003 IN N011 N004 MP_03 MP_04 N012 N007 N010 N005 N008 N006 LT3575
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 .99
.tran 2.5m startup
.lib LT3575.sub
.backanno
.end
