* Z:\mnt\design.r\spice\examples\3580.asc
XU1 N003 N005 IN N001 IN N004 N002 MP_01 0 LT3580
L1 IN N001 4.2µ
D1 N001 OUT 1N5818
C1 OUT 0 10µ
C2 0 N005 1000p Rser=10K
R1 N004 0 75K
C3 N002 0 .001µ
V1 IN 0 5
R2 OUT N003 130K
Rload OUT 0 22
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT3580.sub
.backanno
.end
