* Z:\mnt\design.r\spice\examples\1436A-PLL.asc
C1 N019 0 .01µ
C2 N015 0 100p
M§Q1 IN N005 N009 N009 Si4410DY
M§Q2 IN N008 N009 N009 Si4410DY
M§Q3 N009 N014 0 0 Si4410DY
L1 N009 N010 10µ
D1 0 N009 1N5818
R1 N010 OUT .03
C3 N004 N009 .1µ
D2 N001 N004 1N5818
C4 OUT 0 220µ
R2 N006 0 10K
C5 N007 N006 1000p
C6 N010 OUT 1000p
C7 N001 0 3.3µ
V1 IN 0 6
XU1 N015 N019 N013 N011 N007 N003 0 0 OUT OUT N010 N018 N017 N016 N002 0 N014 N001 IN N005 N009 N008 N004 LTC1436A-PLL
R4 N012 0 10K
C8 N013 N012 1000p
V2 N011 0 SINE(1.5 1.5 120K)
Rload OUT 0 100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 7m startup
.lib LTC1436A-PLL.sub
.backanno
.end
