* Z:\mnt\design.r\spice\examples\101A.asc
V1 +V 0 15
V2 -V 0 -15
V3 N003 0 PULSE(5 -5 10u .5u .5u 53u 200u)
C1 N002 N001 30p
XU1 N001 OUT1 N003 -V OUT1 +V N002 RH101A
C2 N005 N004 30p
XU2 N004 OUT2 N003 -V OUT2 +V NC_01 RH101A
C3 OUT2 N005 300p
R1 N005 0 10K
.tran 100u
* Single Pole Compensation
* Two Pole Compensation
.lib LTC.lib
.backanno
.end
