* Z:\mnt\design.r\spice\examples\1044A.asc
V1 IN 0 5
C5 OUT 0 10µ
C6 N002 N005 10µ
C1 0 N003 100p
Rload OUT 0 1K
XU1 N001 N002 0 N005 OUT N004 N003 IN LTC1044A
.tran 100m startup
.lib LTC1044A.sub
.backanno
.end
