* Z:\mnt\design.r\spice\examples\1079A.asc
V1 +V 0 10
V2 -V 0 -10
R1 N002 N001 5K
R2 N001 0 5K
V3 N003 0 SINE(0 1 1K)
XU1 N003 N001 +V -V N002 LT1078
.tran 3m
.lib LTC.lib
.backanno
.end
