* Z:\mnt\design.r\spice\examples\1435A.asc
C2 OUT 0 200µ Rser=.1
L1 N005 N010 10µ Rser=0.0005
V1 IN 0 12
C3 N006 N007 330p
C4 N004 0 .01µ
C5 N012 0 100p
R1 N010 OUT 0.033
R2 N012 0 11K
R3 OUT N012 35.7K
C6 OUT N010 1000p
C7 OUT N012 100p
C8 N002 0 68p
D1 N009 N008 MBRS340
C9 N005 N008 .1µ
C10 N009 0 4.7µ
D2 0 N005 MBRS140
M§Q1 IN N003 N005 N005 Si4412DY
M§Q2 N005 N011 0 0 Si4412DY
C11 0 N006 51p
R4 N006 0 10K
XU1 N002 N004 N007 IN 0 N012 OUT N010 N001 0 N011 N009 IN N005 N008 N003 LTC1435A
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 9m startup
.lib LTC1435A.sub
.backanno
.end
