* Z:\mnt\design.r\spice\examples\1437A.asc
C1 N021 0 .01µ
C2 N017 0 100p
M§Q1 IN N008 N012 N012 Si4410DY
M§Q2 IN N011 N012 N012 Si4410DY
M§Q3 N012 N016 0 0 Si4410DY
L1 N012 N013 10µ
D1 0 N012 1N5818
R1 N013 OUT .03
C3 N007 N012 .1µ
D2 N002 N007 1N5818
C4 OUT 0 220µ
R2 N010 0 10K
C5 N009 N010 1000p
C6 N010 0 470p
C7 N013 OUT 1000p
C8 N002 0 3.3µ
V1 IN 0 6
XU1 N005 N017 N021 N015 N014 N009 N006 0 0 OUT MP_01 OUT N013 N020 N019 N018 N003 0 N016 N002 N002 IN N008 N012 N011 N007 MP_02 N001 LTC1437A
R3 N005 N004 10K
C9 N004 0 500p
V2 N001 0 SINE(.5 .5 150K)
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 6m startup
.lib LTC1437A.sub
.backanno
.end
