* Z:\mnt\design.r\spice\examples\3411A.asc
L1 N001 OUT 2.2µ
R1 OUT N003 887K
V1 IN 0 4
R2 N003 0 412K
R3 N004 0 549K
C1 OUT 0 22µ
C2 N002 0 680p Rser=12.1K
R4 IN N005 10K
XU1 N004 IN 0 N001 0 IN IN N005 N003 N002 LTC3411A
C3 OUT N003 22p
Rload OUT 0 2
.tran 1.5m startup
.lib LTC3411A.sub
.backanno
.end
