* Z:\mnt\design.r\spice\examples\3507A.asc
L1 N004 OUT1 4.7µ
C1 N002 N004 .22µ
R1 OUT1 N006 18.7K
R2 N006 0 15K
D1 0 N004 MBRS340
C2 N008 0 680p Rser=18.7K
C3 OUT1 0 100µ
C4 N012 0 500p
L2 N005 OUT2 10µ
C5 N005 N003 .22µ
R3 OUT2 N007 35.7K
R4 N007 0 11.5K
D2 0 N005 MBRS340
C6 N009 0 1000p Rser=16.8K
C7 OUT2 0 22µ
C8 N013 0 500p
R5 N026 0 107K
R6 N021 N023 100K
R7 N023 0 10K
R8 N021 N024 49.9K
R9 N024 0 18.7K
L3 N016 OUT3 15µ
C9 N014 N016 .22µ
R10 OUT3 N018 53.6K
R11 N018 0 10.2K
D3 0 N016 MBRS340
C10 N020 0 680p Rser=24.3K
C11 OUT3 0 22µ
C12 N025 0 500p
V1 N001 0 8
Q1 OUT2 N015 OUT4 0 2N2219A
R12 OUT4 N017 24.3K
R13 N017 0 11.5K
C13 N019 0 500p
C14 OUT4 0 2.2µ
Rload1 OUT1 0 .75
Rload2 OUT2 0 2.54
Rload3 OUT3 0 3.33
Rload4 OUT4 0 12.5
D4 OUT1 N002 BAT54
D5 OUT3 N014 BAT54
D6 OUT2 N003 BAT54
XU1 N002 N001 MP_01 N021 N023 N024 N008 N012 N006 N010 N011 N022 N026 N001 N001 N001 OUT2 N025 N020 N018 N013 N007 N009 N015 N017 N019 N003 N005 MP_02 N001 MP_03 N014 N016 MP_04 N001 MP_05 N004 MP_06 0 LT3507A
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 500u startup
.lib LT3507A.sub
.backanno
.end
