* Z:\mnt\design.r\spice\examples\3561A.asc
R1 N006 0 549K
R2 N003 N002 16.9K
C1 N002 0 680p
V1 N001 0 4
L1 N004 N005 2.2µ
C2 N005 0 22µ
R3 N005 N007 249K
R4 N007 0 118K
R5 N005 0 2.5
XU1 N006 0 N004 0 N001 N001 N007 N003 LTC3561A
C3 N005 N007 22p
.tran 1.5m startup
.lib LTC3561A.sub
.backanno
.end
