* Z:\mnt\design.r\spice\examples\3528B-2.asc
L1 IN N001 2.2µ Rpar=5K
V1 IN 0 2
R1 OUT N002 499K
R2 N002 0 287K
C1 OUT 0 10µ Rser=1m
R3 OUT 0 8.25
C2 OUT N002 33p
XU1 IN N002 NC_01 OUT N001 0 0 IN LTC3528B-2
.tran .5m startup
.lib LTC3528B-2.sub
.backanno
.end
