* Z:\mnt\design.r\spice\examples\3400B.asc
L1 IN N001 4.7µ Rser=0.1
R1 OUT N002 1.02Meg
R2 N002 0 604K
V1 IN 0 1.4
C1 OUT 0 4.7µ
XU1 N001 0 N002 IN OUT IN LTC3400B
Rload OUT 0 25
.tran 200u startup
.lib LTC3400B.sub
.backanno
.end
