* Z:\mnt\design.r\spice\examples\3410B.asc
V1 IN 0 5
L1 N001 OUT 4.7µ
R1 OUT N002 887K
R2 N002 0 412K
C1 OUT N002 10p
C2 OUT 0 4.7µ
XU1 IN 0 N001 IN MP_01 N002 LTC3410B
Rload OUT 0 20
.tran 250u startup
.lib LTC3410B.sub
.backanno
.end
