* Z:\mnt\design.r\spice\examples\1429CS8-4.asc
V1 IN 0 5
C1 N002 N004 .1µ
C4 OUT 0 3.3µ
Rload OUT 0 100
R4 IN N003 3.3K
V2 N001 0 PULSE(0 5 0 0 0 .25u .5u)
XU1 IN N002 N004 0 N005 OUT N003 N001 LTC1429CS8-4
.tran 250u
.lib LTC1429CS8-4.sub
.backanno
.end
