* Z:\mnt\design.r\spice\examples\1174HV-3.3.asc
V1 IN 0 9
L1 N001 OUT 100µ Rser=0.02 Rpar=5000
D1 0 N001 MBRS140
C2 OUT 0 100µ Rser=0.02
XU1 OUT N003 N002 0 N001 IN IN IN LTC1174 top=51K bot=31.5K
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2.5m startup
.lib LTC1174.sub
.backanno
.end
