* Z:\mnt\design.r\spice\examples\1074HV.asc
R1 N005 N006 2K
R2 N003 0 2.21K
R3 OUT N003 2.8K
L1 N001 OUT 50µ Rpar=2K
D1 0 N001 MBRS140
C1 OUT 0 330µ Rser=0.07
C2 N006 0 .1µ
XU1 IN N001 N004 0 N003 N005 N002 LT1074
V1 IN 0 20
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT1074.sub
.backanno
.end
