* Z:\mnt\design.r\spice\examples\1172HV.asc
L1 IN N001 150µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS360
R1 OUT N002 10.7K
R2 N002 0 1.24K
R3 N003 N004 1K
C1 OUT 0 500µ Rser=0.05
C3 N004 0 1µ
V1 IN 0 5
XU1 N003 N002 0 N001 IN LT1172
Rload OUT 0 24
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 25m startup
.lib LT1172.sub
.backanno
.end
