* Z:\mnt\design.r\spice\examples\1174HV.asc
V1 IN 0 9
R2 N004 0 31.5K
R1 OUT N004 93.5K
L1 N001 OUT 100µ Rser=0.02 Rpar=5000
D1 0 N001 MBRS140
C2 OUT 0 100µ Rser=0.02
XU1 N004 N003 N002 0 N001 IN IN IN LTC1174 top=1K bot=1T
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LTC1174.sub
.backanno
.end
