* Z:\mnt\design.r\spice\examples\1372HV.asc
V1 IN 0 5
C1 OUT 0 .1µ
C2 0 N005 .0047µ
C3 0 N004 .047µ
C4 OUT 0 22µ Rser=.05
R1 N004 N005 2K
R2 N003 0 6.19K
R3 OUT N003 53.6K
D1 N001 OUT MBRS340
L1 IN N001 4.7µ Rser=0.02 Rpar=5000
XU1 N005 N003 N006 N002 IN MP_01 0 N001 LT1372
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1372.sub
.backanno
.end
