* Z:\mnt\design.r\spice\examples\1373HV.asc
V1 IN 0 5
C4 N005 N006 .05µ
C2 OUT 0 22µ Rser=.05
R3 N006 0 5K
R2 N002 0 24.9K
R1 OUT N002 215K
D1 N001 OUT MBRS360
L1 IN N001 22µ Rser=0.02 Rpar=5000
XU1 N005 N002 N004 N003 IN 0 0 N001 LT1373
R4 OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LT1373.sub
.backanno
.end
